US07439232B2
Preparation of 4-(4-methoxycarbonylbenzyl)-3-hydroxypyridine
Next, a mixture of (4-methoxycarbonylphenyl)-(3-hydroxypyridin-4-yl)-methanol hydrochloride (1.87 g, 5.50 mmol), methanol (50 ml) and 10% palladium/carbon (0.94 g) was stirred under a hydrogen atmosphere at room temperature for 3 days. After filtration to remove the insoluble materials, the filtrate was concentrated under reduced pressure and the resulting residue was poured into saturated aqueous NaHCO3 and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting crystal was recrystallized from diethyl ether to give the titled compound (1.27 g, 95%).

reactant | (4-methoxycarbonylphenyl)-(3-hydroxypyridin-4-yl)-methanol hydrochloride | 5.50 mmol, 1.87 g | Cl.COC(=O)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)O
catalyst | palladium/carbon | 0.94 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 4-(4-methoxycarbonylbenzyl)-3-hydroxypyridine | 1.27 g, 95% | COC(=O)C1=CC=C(CC2=C(C=NC=C2)O)C=C1 | C14H13NO3
